US07589206B2
Prepared in a similar manner to Example 4(d) from 1-(7-chloro-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-4-yl)-1-morpholin-4-yl-methanone (100 mg) and using 3,5-difluoroaniline (88 mg) instead of 3-bromoaniline and heating for 15 rather than 30 minutes to give 1-[7-(3,5-difluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone (33 mg).

reactant | 1-(7-chloro-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-4-yl)-1-morpholin-4-yl-methanone | 100 mg | ClC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | C14H16ClN3O2
reactant | 3,5-difluoroaniline | 88 mg | FC=1C=C(N)C=C(C1)F | C6H5F2N
product | 1-[7-(3,5-difluoro-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone | 33 mg | FC=1C=C(C=C(C1)F)NC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | C20H20F2N4O2
